US04548947
A mixture of 290 g of p-chlorocinnamic acid, methyl ester, 500 g of nitromethane and 39 g of tetramethylguanidine is allowed to stir for 72 hours. The solution is diluted with ethyl ether and aqueous hydrochloric acid solution (1 N, 1 liter) is added. The organic layer is separated, dried over anhydrous magnesium sulfate, and evaporated to give 4-nitro-3-(4-chlorophenyl)butanoic acid methyl ester.

reactant | p-chlorocinnamic acid, methyl ester | 290 g | ClC1=CC=C(C=CC(=O)OC)C=C1 | C10H9ClO2
reactant | nitromethane | 500 g | [N+](=O)([O-])C | CH3NO2
reactant | tetramethylguanidine | 39 g | CN(C(N(C)C)=N)C | C5H13N3
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | hydrochloric acid | 1 N, 1 liter | Cl | ClH
product | 4-nitro-3-(4-chlorophenyl)butanoic acid methyl ester | COC(CC(C[N+](=O)[O-])C1=CC=C(C=C1)Cl)=O | C11H12ClNO4
